US07157455B2
The same procedure as described in Example 81 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 59, and 1-piperidine propionic acid (Aldrich) to give 1-[4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-3-piperidin-1-yl-propan-1-one. MS (M+H)+: 485.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1
reactant | 1-piperidine propionic acid | N1(CCCCC1)CCC(=O)O | C8H15NO2
product | 1-[4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-3-piperidin-1-yl-propan-1-one | NC1=NC(=NC=C1C(C1=C(C=CC(=C1)F)OC)=O)NC1CCN(CC1)C(CCN1CCCCC1)=O | C25H33FN6O3
